US06380230B1
A) Ethyl 5-methyl-2-indolecarboxylate
15.4 g of NaNO2 in 4 ml of water are added, at 0° C., to 23.57 g of p-toluidine in 50 ml of HCl and 100 ml of water; after stiring for 20 minutes, 18.2 g of sodium acetate ate added. Separately, a mixture of 28.8 g of ethyl 2-methyl-3-oxobutyrate in 100 ml of ethanol is prepared, at 0° C, and is treated with 11.22 g of potassium hydroxide in20 ml of water and 200 g of crushed ice. The diazonium salt solution prepared above is added and the mixture is left stirring for 3 hours at 0° C. After leaving overnight in a refrigerator, it is poured onto saturated NaCl solution and is then extracted with EtOAc, dried over MgSO4 and concentrated. The residue is taken up in toluene, 16 g of para-toluenesulphonic acid are added and the mixture is refluxed overnight, eliminating the water using Dean-Stark apparatus. The reaction medium is chromatographed on silica, eluting with toluene, to give 12 g of the expected product: m.p.=133° C.

reactant | NaNO2 | 15.4 g | N(=O)[O-].[Na+]
reactant | p-toluidine | 23.57 g | NC1=CC=C(C=C1)C | C7H9N
reactant | sodium acetate | 18.2 g | C(C)(=O)[O-].[Na+]
reactant | ethyl 2-methyl-3-oxobutyrate | 28.8 g | CC(C(=O)OCC)C(C)=O | C7H12O3
reactant | potassium hydroxide | 11.22 g | [OH-].[K+]
reactant | NaCl | [Na+].[Cl-]
solvent | water | 4 ml | O | H2O
solvent | HCl | 50 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 5-methyl-2-indolecarboxylate | 12 g | CC=1C=C2C=C(NC2=CC1)C(=O)OCC | C12H13NO2
